US06018052
4.7 g (20 mmol) of ether 2-isothiocyanato-2-phenylpropionate are dissolved in 40 ml of xylene. 2.16 g (20 mmol) of phenylhydrazine are added and the mixture is heated for 4 hours at reflux. The mixture is cooled to room temperature and a beige solid precipitates. The precipitate is filtered, washed with 5 ml of diisopropyl ether and then dried under vacuum. 4.6 g (yield=77%) of 3,5-diphenyl-5-methyl-2-thiohydantoin are thus obtained in the form of a beige powder melting at 164° C.

reactant | ether 2-isothiocyanato-2-phenylpropionate | 20 mmol, 4.7 g | CCOCC.N(=C=S)C(C(=O)[O-])(C)C1=CC=CC=C1
reactant | phenylhydrazine | 20 mmol, 2.16 g | C1(=CC=CC=C1)NN | C6H8N2
solvent | xylene | 40 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 3,5-diphenyl-5-methyl-2-thiohydantoin | 4.6 g, yield=77% | C1(=CC=CC=C1)N1C(NC(C1=O)(C)C1=CC=CC=C1)=S | C16H14N2OS
